US06358980B1
Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylate was prepared following the procedure Example 64 (step 6). Starting from 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester (500 mg, 1.29 mmol) in dimethylformamide (10 ml), (2,2,5-trimethyl-1,3-dioxan-5-yl)carboxylic acid (224 mg, 1.29 mmol), 1-hydroxybenzotriazole (209 mg, 1.56 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (346 mg, 1.81 mmol), and N-methylmorpholine (0.212 ml, 1.94 mmol), to obtain 385 mg (59%) of the product as a solid. HR-MS: m/z Calculated for C25H33NO8S 508.2000; Found 508.1998.

reactant | 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester | 1.29 mmol, 500 mg | COC(=O)C1(CCNCC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C17H21NO5S
reactant | (2,2,5-trimethyl-1,3-dioxan-5-yl)carboxylic acid | 1.29 mmol, 224 mg | CC1(OCC(CO1)(C)C(=O)O)C | C8H14O4
reactant | 1-hydroxybenzotriazole | 1.56 mmol, 209 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.81 mmol, 346 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 1.94 mmol, 0.212 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylate | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C1(COC(OC1)(C)C)C)C(=O)OC | C25H33NO8S
